US05084083
A mixture of methyl-4-chlorothiobenzoate (2.11 g, 11.3 mmol), aspartic acid (2.7 g, 2.02 mmol), aq NaOH (3N, 8.8 ml), and Et2O (8 ml) were vigourously stirred at room temperature for 3 days. The aq. layer was separated, acidfied (dil.HCl), and extracted with Et2O (2×25 ml). The combined ether extracts were dried (MgSO4), filtered, and concentrated under reduced pressure to yield N-p-chlorothiobenzoylaspartic acid (0.23 g).

reactant | methyl-4-chlorothiobenzoate | 11.3 mmol, 2.11 g | COC(C1=CC=C(C=C1)Cl)=S | C8H7ClOS
reactant | aspartic acid | 2.02 mmol, 2.7 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | NaOH | 3N, 8.8 ml | [OH-].[Na+]
solvent | Et2O | 8 ml | CCOCC | C4H10O
product | N-p-chlorothiobenzoylaspartic acid | 0.23 g | ClC1=CC=C(C(=S)N[C@@H](CC(=O)O)C(=O)O)C=C1 | C11H10ClNO4S
